************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: 8x8SRAM_PRECH_SENSE_WRITE
* View Name:     schematic
* Netlisted on:  May 28 18:56:00 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    PRE_CHARGE
* View Name:    schematic
************************************************************************

.SUBCKT PRE_CHARGE BL BLbar clk vdd
*.PININFO clk:I BL:B BLbar:B vdd:B
MM2 BL clk BLbar vdd PMOS_VTG W=90n L=50n m=1
MM1 BLbar clk vdd vdd PMOS_VTG W=90n L=50n m=1
MM0 vdd clk BL vdd PMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8PRECHARGE
* View Name:    schematic
************************************************************************

.SUBCKT 8x8PRECHARGE BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> 
+ BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> clk vdd
*.PININFO clk:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B 
*.PININFO BL<7>:B BLbar<0>:B BLbar<1>:B BLbar<2>:B BLbar<3>:B BLbar<4>:B 
*.PININFO BLbar<5>:B BLbar<6>:B BLbar<7>:B vdd:B
XI15 BL<2> BLbar<2> clk vdd / PRE_CHARGE
XI9 BL<7> BLbar<7> clk vdd / PRE_CHARGE
XI16 BL<1> BLbar<1> clk vdd / PRE_CHARGE
XI14 BL<3> BLbar<3> clk vdd / PRE_CHARGE
XI13 BL<0> BLbar<0> clk vdd / PRE_CHARGE
XI12 BL<4> BLbar<4> clk vdd / PRE_CHARGE
XI10 BL<6> BLbar<6> clk vdd / PRE_CHARGE
XI11 BL<5> BLbar<5> clk vdd / PRE_CHARGE
.ENDS

************************************************************************
* Library Name: SRAM_final
* Cell Name:    Write_Circuitry
* View Name:    schematic
************************************************************************

.SUBCKT Write_Circuitry BL BLbar data_in gnd vdd wr_en
*.PININFO data_in:I wr_en:I BL:O BLbar:O gnd:B vdd:B
MM11 net074 wr_en vdd vdd PMOS_VTG W=135.00n L=50n m=1
MM5 net069 wr_en vdd vdd PMOS_VTG W=135.00n L=50n m=1
MM2 net070 net069 BL vdd PMOS_VTG W=270.0n L=50n m=1
MM3 BLbar net074 net061 vdd PMOS_VTG W=270.0n L=50n m=1
MM6 net070 net061 vdd vdd PMOS_VTG W=270.0n L=50n m=1
MM8 net061 data_in vdd vdd PMOS_VTG W=270.0n L=50n m=1
MM10 net074 wr_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM4 net069 wr_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM1 BLbar wr_en net061 gnd NMOS_VTG W=180.0n L=50n m=1
MM0 net070 wr_en BL gnd NMOS_VTG W=180.0n L=50n m=1
MM7 net070 net061 gnd gnd NMOS_VTG W=180.0n L=50n m=1
MM9 net061 data_in gnd gnd NMOS_VTG W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8WRITE_CIRCUITRY
* View Name:    schematic
************************************************************************

.SUBCKT 8x8WRITE_CIRCUITRY BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> 
+ BLbar<0> BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> 
+ data_in<0> data_in<1> data_in<2> data_in<3> data_in<4> data_in<5> data_in<6> 
+ data_in<7> gnd vdd wr_en
*.PININFO data_in<0>:I data_in<1>:I data_in<2>:I data_in<3>:I data_in<4>:I 
*.PININFO data_in<5>:I data_in<6>:I data_in<7>:I wr_en:I BL<0>:B BL<1>:B 
*.PININFO BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B BL<7>:B BLbar<0>:B 
*.PININFO BLbar<1>:B BLbar<2>:B BLbar<3>:B BLbar<4>:B BLbar<5>:B BLbar<6>:B 
*.PININFO BLbar<7>:B gnd:B vdd:B
XI12 BL<3> BLbar<3> data_in<3> gnd vdd wr_en / Write_Circuitry
XI9 BL<0> BLbar<0> data_in<0> gnd vdd wr_en / Write_Circuitry
XI10 BL<1> BLbar<1> data_in<1> gnd vdd wr_en / Write_Circuitry
XI11 BL<2> BLbar<2> data_in<2> gnd vdd wr_en / Write_Circuitry
XI13 BL<7> BLbar<7> data_in<7> gnd vdd wr_en / Write_Circuitry
XI14 BL<4> BLbar<4> data_in<4> gnd vdd wr_en / Write_Circuitry
XI15 BL<5> BLbar<5> data_in<5> gnd vdd wr_en / Write_Circuitry
XI16 BL<6> BLbar<6> data_in<6> gnd vdd wr_en / Write_Circuitry
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8PRECH_WRITECIRC
* View Name:    schematic
************************************************************************

.SUBCKT 8x8PRECH_WRITECIRC BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> 
+ BLbar<0> BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> clk 
+ data_in<0> data_in<1> data_in<2> data_in<3> data_in<4> data_in<5> data_in<6> 
+ data_in<7> gnd vdd wr_en
*.PININFO clk:I data_in<0>:I data_in<1>:I data_in<2>:I data_in<3>:I 
*.PININFO data_in<4>:I data_in<5>:I data_in<6>:I data_in<7>:I wr_en:I BL<0>:B 
*.PININFO BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B BL<7>:B BLbar<0>:B 
*.PININFO BLbar<1>:B BLbar<2>:B BLbar<3>:B BLbar<4>:B BLbar<5>:B BLbar<6>:B 
*.PININFO BLbar<7>:B gnd:B vdd:B
XI0 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> BLbar<1> BLbar<2> 
+ BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> clk vdd / 8x8PRECHARGE
XI1 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> BLbar<1> BLbar<2> 
+ BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> data_in<0> data_in<1> 
+ data_in<2> data_in<3> data_in<4> data_in<5> data_in<6> data_in<7> gnd vdd 
+ wr_en / 8x8WRITE_CIRCUITRY
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    SENSE_AMP
* View Name:    schematic
************************************************************************

.SUBCKT SENSE_AMP BL BLbar data_out gnd read_en vdd
*.PININFO read_en:I data_out:O BL:B BLbar:B gnd:B vdd:B
MM2 net12 read_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM1 net16 data_out net12 gnd NMOS_VTG W=90n L=50n m=1
MM0 net12 net16 data_out gnd NMOS_VTG W=90n L=50n m=1
MM6 BL read_en data_out vdd PMOS_VTG W=90n L=50n m=1
MM5 net16 read_en BLbar vdd PMOS_VTG W=90n L=50n m=1
MM4 net16 data_out vdd vdd PMOS_VTG W=90n L=50n m=1
MM3 vdd net16 data_out vdd PMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8SENSE_AMP
* View Name:    schematic
************************************************************************

.SUBCKT 8x8SENSE_AMP BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> 
+ BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> data_out<0> 
+ data_out<1> data_out<2> data_out<3> data_out<4> data_out<5> data_out<6> 
+ data_out<7> gnd read_en vdd
*.PININFO read_en:I data_out<0>:O data_out<1>:O data_out<2>:O data_out<3>:O 
*.PININFO data_out<4>:O data_out<5>:O data_out<6>:O data_out<7>:O BL<0>:B 
*.PININFO BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B BL<6>:B BL<7>:B BLbar<0>:B 
*.PININFO BLbar<1>:B BLbar<2>:B BLbar<3>:B BLbar<4>:B BLbar<5>:B BLbar<6>:B 
*.PININFO BLbar<7>:B gnd:B vdd:B
XI10 BL<2> BLbar<2> data_out<2> gnd read_en vdd / SENSE_AMP
XI9 BL<1> BLbar<1> data_out<1> gnd read_en vdd / SENSE_AMP
XI13 BL<5> BLbar<5> data_out<5> gnd read_en vdd / SENSE_AMP
XI11 BL<3> BLbar<3> data_out<3> gnd read_en vdd / SENSE_AMP
XI12 BL<4> BLbar<4> data_out<4> gnd read_en vdd / SENSE_AMP
XI14 BL<6> BLbar<6> data_out<6> gnd read_en vdd / SENSE_AMP
XI15 BL<7> BLbar<7> data_out<7> gnd read_en vdd / SENSE_AMP
XI8 BL<0> BLbar<0> data_out<0> gnd read_en vdd / SENSE_AMP
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8SENSE_PRECH_WRITECIRC2
* View Name:    schematic
************************************************************************

.SUBCKT 8x8SENSE_PRECH_WRITECIRC2 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> 
+ BL<7> BLbar<0> BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> 
+ BLbar<7> clk data_in<0> data_in<1> data_in<2> data_in<3> data_in<4> 
+ data_in<5> data_in<6> data_in<7> data_out<0> data_out<1> data_out<2> 
+ data_out<3> data_out<4> data_out<5> data_out<6> data_out<7> gnd read_en vdd 
+ wr_en
*.PININFO clk:I data_in<0>:I data_in<1>:I data_in<2>:I data_in<3>:I 
*.PININFO data_in<4>:I data_in<5>:I data_in<6>:I data_in<7>:I gnd:I read_en:I 
*.PININFO vdd:I wr_en:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B 
*.PININFO BL<6>:B BL<7>:B BLbar<0>:B BLbar<1>:B BLbar<2>:B BLbar<3>:B 
*.PININFO BLbar<4>:B BLbar<5>:B BLbar<6>:B BLbar<7>:B data_out<0>:B 
*.PININFO data_out<1>:B data_out<2>:B data_out<3>:B data_out<4>:B 
*.PININFO data_out<5>:B data_out<6>:B data_out<7>:B
XI0 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> BLbar<1> BLbar<2> 
+ BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> clk data_in<0> data_in<1> 
+ data_in<2> data_in<3> data_in<4> data_in<5> data_in<6> data_in<7> gnd vdd 
+ wr_en / 8x8PRECH_WRITECIRC
XI2 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> BLbar<1> BLbar<2> 
+ BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> data_out<0> data_out<1> 
+ data_out<2> data_out<3> data_out<4> data_out<5> data_out<6> data_out<7> gnd 
+ read_en vdd / 8x8SENSE_AMP
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    6TDPMTSRAM
* View Name:    schematic
************************************************************************

.SUBCKT 6TDPMTSRAM Q Q' bit bit_n gnd sleep sleep_n vdd wl
*.PININFO sleep:I sleep_n:I wl:I Q:O Q':O bit:B bit_n:B gnd:B vdd:B
MM5 net044 Q' Q vdd PMOS_VTG W=247.5n L=50n m=1
MM4 Q' Q net044 vdd PMOS_VTG W=247.5n L=50n m=1
MM7 net044 sleep vdd vdd PMOS_VTG W=645.00n L=50n m=1
MM1 bit_n wl Q' gnd NMOS_VTG W=217.5n L=50n m=1
MM0 Q wl bit gnd NMOS_VTG W=217.5n L=50n m=1
MM3 net043 Q' Q gnd NMOS_VTG W=380.0n L=50n m=1
MM2 Q' Q net043 gnd NMOS_VTG W=380.0n L=50n m=1
MM6 net043 sleep_n gnd gnd NMOS_VTG W=430.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8SRAM
* View Name:    schematic
************************************************************************

.SUBCKT 8x8SRAM BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> 
+ BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> WL<0> WL<1> 
+ WL<2> WL<3> WL<4> WL<5> WL<6> WL<7> gnd sleep<0> sleep<1> sleep<2> sleep<3> 
+ sleep<4> sleep<5> sleep<6> sleep<7> sleepbar<0> sleepbar<1> sleepbar<2> 
+ sleepbar<3> sleepbar<4> sleepbar<5> sleepbar<6> sleepbar<7> vdd
*.PININFO WL<0>:I WL<1>:I WL<2>:I WL<3>:I WL<4>:I WL<5>:I WL<6>:I WL<7>:I 
*.PININFO sleep<0>:I sleep<1>:I sleep<2>:I sleep<3>:I sleep<4>:I sleep<5>:I 
*.PININFO sleep<6>:I sleep<7>:I sleepbar<0>:I sleepbar<1>:I sleepbar<2>:I 
*.PININFO sleepbar<3>:I sleepbar<4>:I sleepbar<5>:I sleepbar<6>:I 
*.PININFO sleepbar<7>:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B 
*.PININFO BL<6>:B BL<7>:B BLbar<0>:B BLbar<1>:B BLbar<2>:B BLbar<3>:B 
*.PININFO BLbar<4>:B BLbar<5>:B BLbar<6>:B BLbar<7>:B gnd:B vdd:B
XI70 net372 net373 BL<0> BLbar<0> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI69 net374 net375 BL<0> BLbar<0> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI68 net376 net377 BL<0> BLbar<0> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI67 net378 net379 BL<4> BLbar<4> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI66 net380 net381 BL<6> BLbar<6> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI65 net382 net383 BL<7> BLbar<7> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI64 net384 net385 BL<5> BLbar<5> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI63 net386 net387 BL<2> BLbar<2> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI62 net388 net389 BL<3> BLbar<3> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI61 net390 net391 BL<1> BLbar<1> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI60 net392 net393 BL<4> BLbar<4> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI59 net394 net395 BL<6> BLbar<6> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI58 net396 net397 BL<7> BLbar<7> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI57 net398 net399 BL<5> BLbar<5> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI56 net400 net401 BL<2> BLbar<2> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI55 net402 net403 BL<3> BLbar<3> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI54 net404 net405 BL<1> BLbar<1> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI53 net406 net407 BL<0> BLbar<0> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI52 net408 net409 BL<4> BLbar<4> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI51 net410 net411 BL<6> BLbar<6> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI50 net412 net413 BL<7> BLbar<7> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI49 net414 net415 BL<5> BLbar<5> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI48 net416 net417 BL<2> BLbar<2> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI47 net418 net419 BL<3> BLbar<3> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI46 net420 net421 BL<1> BLbar<1> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI45 net422 net423 BL<4> BLbar<4> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI44 net424 net425 BL<6> BLbar<6> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI43 net426 net427 BL<7> BLbar<7> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI42 net428 net429 BL<5> BLbar<5> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI41 net430 net431 BL<2> BLbar<2> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI40 net432 net433 BL<3> BLbar<3> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI39 net434 net435 BL<1> BLbar<1> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI38 net436 net437 BL<0> BLbar<0> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI37 net438 net439 BL<0> BLbar<0> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI36 net440 net441 BL<4> BLbar<4> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI35 net442 net443 BL<6> BLbar<6> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI34 net444 net445 BL<7> BLbar<7> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI33 net446 net447 BL<5> BLbar<5> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI32 net448 net449 BL<2> BLbar<2> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI31 net450 net451 BL<3> BLbar<3> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI30 net452 net453 BL<1> BLbar<1> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI29 net454 net455 BL<4> BLbar<4> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI28 net456 net457 BL<6> BLbar<6> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI27 net458 net459 BL<7> BLbar<7> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI26 net460 net461 BL<5> BLbar<5> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI25 net462 net463 BL<2> BLbar<2> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI24 net464 net465 BL<3> BLbar<3> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI23 net466 net467 BL<1> BLbar<1> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI22 net468 net469 BL<0> BLbar<0> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI21 net470 net471 BL<4> BLbar<4> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI20 net472 net473 BL<6> BLbar<6> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI19 net474 net475 BL<7> BLbar<7> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI18 net476 net477 BL<5> BLbar<5> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI17 net478 net479 BL<2> BLbar<2> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI16 net480 net481 BL<3> BLbar<3> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI15 net482 net483 BL<1> BLbar<1> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI14 net484 net485 BL<4> BLbar<4> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI13 net486 net487 BL<6> BLbar<6> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI12 net488 net489 BL<7> BLbar<7> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI11 net490 net491 BL<5> BLbar<5> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI10 net492 net493 BL<2> BLbar<2> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI9 net494 net495 BL<3> BLbar<3> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI8 net496 net497 BL<1> BLbar<1> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI0 net498 net499 BL<0> BLbar<0> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8SRAM_PRECH_SENSE_WRITE
* View Name:    schematic
************************************************************************

.SUBCKT 8x8SRAM_PRECH_SENSE_WRITE BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> 
+ BL<7> BLbar<0> BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> 
+ BLbar<7> WL<0> WL<1> WL<2> WL<3> WL<4> WL<5> WL<6> WL<7> clk data_in<0> 
+ data_in<1> data_in<2> data_in<3> data_in<4> data_in<5> data_in<6> data_in<7> 
+ data_out<0> data_out<1> data_out<2> data_out<3> data_out<4> data_out<5> 
+ data_out<6> data_out<7> gnd read_en sleep<0> sleep<1> sleep<2> sleep<3> 
+ sleep<4> sleep<5> sleep<6> sleep<7> sleepbar<0> sleepbar<1> sleepbar<2> 
+ sleepbar<3> sleepbar<4> sleepbar<5> sleepbar<6> sleepbar<7> vdd wr_en
*.PININFO WL<0>:I WL<1>:I WL<2>:I WL<3>:I WL<4>:I WL<5>:I WL<6>:I WL<7>:I 
*.PININFO clk:I data_in<0>:I data_in<1>:I data_in<2>:I data_in<3>:I 
*.PININFO data_in<4>:I data_in<5>:I data_in<6>:I data_in<7>:I gnd:I read_en:I 
*.PININFO sleep<0>:I sleep<1>:I sleep<2>:I sleep<3>:I sleep<4>:I sleep<5>:I 
*.PININFO sleep<6>:I sleep<7>:I sleepbar<0>:I sleepbar<1>:I sleepbar<2>:I 
*.PININFO sleepbar<3>:I sleepbar<4>:I sleepbar<5>:I sleepbar<6>:I 
*.PININFO sleepbar<7>:I vdd:I wr_en:I data_out<0>:O data_out<1>:O 
*.PININFO data_out<2>:O data_out<3>:O data_out<4>:O data_out<5>:O 
*.PININFO data_out<6>:O data_out<7>:O BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B 
*.PININFO BL<5>:B BL<6>:B BL<7>:B BLbar<0>:B BLbar<1>:B BLbar<2>:B BLbar<3>:B 
*.PININFO BLbar<4>:B BLbar<5>:B BLbar<6>:B BLbar<7>:B
XI0 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> BLbar<1> BLbar<2> 
+ BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> clk data_in<0> data_in<1> 
+ data_in<2> data_in<3> data_in<4> data_in<5> data_in<6> data_in<7> 
+ data_out<0> data_out<1> data_out<2> data_out<3> data_out<4> data_out<5> 
+ data_out<6> data_out<7> gnd read_en vdd wr_en / 8x8SENSE_PRECH_WRITECIRC2
XI1 BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> BLbar<1> BLbar<2> 
+ BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> WL<0> WL<1> WL<2> WL<3> WL<4> 
+ WL<5> WL<6> WL<7> gnd sleep<0> sleep<1> sleep<2> sleep<3> sleep<4> sleep<5> 
+ sleep<6> sleep<7> sleepbar<0> sleepbar<1> sleepbar<2> sleepbar<3> 
+ sleepbar<4> sleepbar<5> sleepbar<6> sleepbar<7> vdd / 8x8SRAM
.ENDS

